US05585394
A) 4-Chloro-2-[(4-methoxyphenyl)amino]-1-nitrobenzene
A mixture of 10 g of 4-chloro-1,2-dinitrobenzene, 6.5 g of 4-methoxyaniline and 16 g of 1,2,3,4-tetramethylbenzene is refluxed for 15 hours. After cooling, water is added, the mixture is extracted with AcOEt, washed with a 1N solution of HCl , with a 1N solution of NaOH and with water and dried over Na2SO4 and the solvent is evaporated off under vacuum. The residue is taken up with iso ether, a gummy insoluble material is separated off and the filtrate is chromatographed on alumina using iso ether as the eluent to give 4.6 g of the expected product after crystallization from isopropanol. M.p.=98° C.

reactant | 4-chloro-1,2-dinitrobenzene | 10 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | 4-methoxyaniline | 6.5 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | 1,2,3,4-tetramethylbenzene | 16 g | CC1=C(C(=C(C=C1)C)C)C | C10H14
solvent | water | O | H2O
product | 4-Chloro-2-[(4-methoxyphenyl)amino]-1-nitrobenzene | 4.6 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])NC1=CC=C(C=C1)OC | C13H11ClN2O3
